US06441048B1
1-[cyano-(4-methoxyphenyl)methyl]cyclohexanol
A solution of 4-methoxybenzylnitrile (53.5 g, 0.36 mol) in 400 mL THF was cooled to −78° C. followed by slow addition of a 2.0 M THF solution of lithium diisopropylamide (200 mL, 0.40 mol) maintaining the reaction temperature below −65° C. The reaction was stirred at −78° C. for 30 minutes. Cyclohexanone (39.5 g, 0.40 mol) was added at a rate such that the reaction temperature did not rise above −65° C. After the addition reaction was stirred at −78° C. for 2 hours, then was poured into 1 L saturated aqueous NH4Cl containing ice. The mixture was stirred for 15 minutes and was extracted with ethyl acetate (4×200 mL). Combined ethyl acetate layer was washed with water (3×100 mL), brine (1×100 mL) and dried (Na2SO4). Ethyl acetate was evaporated in vacuo to give colorless solid that was trichurated with hexane. The precipitate was filtered, washed with hexane, dried in vacuo to give colorless solid (72.0 g, 80.7% yield). 1H (CDCl3): 7.30 and 6.90 (q, 4H), 3.80 (s, 3H), 3.75 (s, 1H), 1.55 (m, 10H); 13C (CDCl3): 159.8, 130.8, 123.8, 120.0, 114.1, 72.9, 55.5, 49.5, 34.9, 25.3, 21.6.

reactant | lithium diisopropylamide | 0.40 mol, 200 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | Cyclohexanone | 0.40 mol, 39.5 g | C1(CCCCC1)=O | C6H10O
reactant | NH4Cl | 1 L | [NH4+].[Cl-]
reactant | hexane | CCCCCC | C6H14
reactant | THF | 400 mL | C1CCOC1 | C4H8O
reactant | THF | 2.0 M | C1CCOC1 | C4H8O
product | 1-[cyano-(4-methoxyphenyl)methyl]cyclohexanol | 72.0 g, 80.7% yield | C(#N)C(C1(CCCCC1)O)C1=CC=C(C=C1)OC | C15H19NO2
